US05117002
1,4-Dinitrobenzene (3.52 g, 20.5 mmol) and potassium carbonate (1.38 g, 10 mmol) were heated in dimethylsulfoxide (8 mL) at about 100° C. for approximately 5.8 hours. The reaction was allowed to cool and was poured into water (20 mL). The reaction vessel was rinsed with an additional 10 mL of water and the rinses were combined. The combined aqueous suspensions were allowed to stand overnight. The solid was collected, washed with water, and dried to give 2.35 g (63% pure) of 4,4'-dinitrodiphenyl ether.

reactant | 1,4-Dinitrobenzene | 20.5 mmol, 3.52 g | [N+](=O)([O-])C1=CC=C(C=C1)[N+](=O)[O-] | C6H4N2O4
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 mL | O | H2O
solvent | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
product | 4,4'-dinitrodiphenyl ether | 2.35 g, 63% | C1=CC(=CC=C1[N+](=O)[O-])OC2=CC=C(C=C2)[N+](=O)[O-] | C12H8N2O5
